US07919506B2
Preparation 41: 2-(bromomethyl)-1-(1-methoxycyclohexyl)-4-(trifluoromethyl)benzene
To a solution of (2-(1-methoxycyclohexyl)-5-(trifluoromethyl)phenyl)methanol (27 mg; 0.094 mmol) in methylene chloride (1 mL) was added N-bromosuccinimide (28 mg; 0.157 mmol) followed by triphenylphosphine (40 mg; 0.152 mmol). The reaction was stirred at room temperature for 4 hours. The reaction was directly loaded onto silica and purified over 4 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 5-40% ethyl acetate in heptane) to give 26 mg (79%) of a gum. MS-GC (El): Calc: 351.2, Found; 352 (M+H). 1H NMR (400 MHz, CDCl3) δ ppm 7.81 (d, J=1.66 Hz, 1H), 7.48 (td, J=8.30, 1.66 Hz, 1H), 7.39 (d, J=8.30 Hz, 1H), 5.12 (s, 2H), 3.00 (s, 3H), 2.25 (d, J=12.45 Hz, 2H), 1.84-1.71 (m, 3H), 1.65 (m, 4H), 1.27(m, 1H).

reactant | (2-(1-methoxycyclohexyl)-5-(trifluoromethyl)phenyl)methanol | 0.094 mmol, 27 mg | COC1(CCCCC1)C1=C(C=C(C=C1)C(F)(F)F)CO | C15H19F3O2
reactant | N-bromosuccinimide | 0.157 mmol, 28 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | 0.152 mmol, 40 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(bromomethyl)-1-(1-methoxycyclohexyl)-4-(trifluoromethyl)benzene | 26 mg, 79% | BrCC1=C(C=CC(=C1)C(F)(F)F)C1(CCCCC1)OC | C15H18BrF3O
